US05166397
To the (1R, 2R, 3S)-2,3-bis(hydroxymethyl)-1-cyclobutylamine/N-acetyl-L-phenylglycine salt thus isolated is added an alkaline aqueous solution of, for example, sodium hydrogencarbonate, sodium carbonate or sodium hydroxide. Then the mixture is extracted with an organic solvent such as t-butanol or secbutanol. Or a solution of the salt is treated with an ion exchange resin. Then the salt is separated into the aimed free base (1R, 2R, 3S)-2,3-bis(hydromethyl)-1-cyclobutylamine and N-acetyl-L-phenylglycine. On the other hand, (1S, 2S, 3R)-2,3-bis(hydroxymethyl)-1-cyclobutylamine may be produced by the same method as the one described above except that the N-acetyl-L-phenylglycine is replaced by N-acetyl-D-phenylglycine.

reactant | (1R, 2R, 3S)-2,3-bis(hydroxymethyl)-1-cyclobutylamine N-acetyl-L-phenylglycine | OC[C@H]1[C@@H](C[C@@H]1CO)N.CC(=O)N(CC(=O)O)C1=CC=CC=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
product | (1S, 2S, 3R)-2,3-bis(hydroxymethyl)-1-cyclobutylamine | OC[C@@H]1[C@H](C[C@H]1CO)N | C6H13NO2
